US07662831B2
Following the procedure of Example 1, step 2, 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole (7.5 g, 35 mmol) and potassium nitrate (3.6 g, 35 mmol) in concentrated sulfuric acid (100 mL) provided 2-nitro-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole.

reactant | 4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole | 35 mmol, 7.5 g | C1=C2C3=C(N4C2=C(C=C1)CC4)CCCCC3 | C15H17N
reactant | potassium nitrate | 35 mmol, 3.6 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
product | 2-nitro-4,5,8,9,10,11-hexahydro-7H-cyclohepta[b]pyrrolo[3,2,1-hi]indole | [N+](=O)([O-])C=1C=C2C3=C(N4C2=C(C1)CC4)CCCCC3 | C15H16N2O2
